US04997924
Step f: (Z)-4',5'-didehydro-5'-deoxy-5'-fluoroadenosine
Dissolve 83 mg of N6 -benzoyl-4',5'-didehydro-5'-deoxy-5'-fluoroadenosine (lower Rf isomer above) in absolute ethanol, evaporate and redissolve in 6 ml of ethanol. Bubble anhydrous ammonia through the ice cooled solution in a 20 mm×12 cm Carius tube. Seal the tube and remove the ice bath. After 14 hours at room temperature, open the tube and evaporate the solution to give 87 mg of crude product. Triturate in 1 ml of methanol and filter off the solid. Dry the product in vacuo to give 20 mg of the title compound (a white powder, softens at 100°-110° C. and melts at 225°-230° C.).

reactant | N6 -benzoyl-4',5'-didehydro-5'-deoxy-5'-fluoroadenosine | 83 mg | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)C(=CF)O3)C2N=CN1 | C17H14FN5O4
solvent | ethanol | C(C)O | C2H6O
product | (Z)-4',5'-didehydro-5'-deoxy-5'-fluoroadenosine | 20 mg | F\C=C/1\[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H10FN5O3
